US06201023B1
N-(2-Hydroxyethyl)-3-aminobutyric acid
A solution of 86 g of crotonic acid (1 mole) and ethanolamine (1 mole) in pyridine (200 ml) was refluxed for 2-3 hours and subsequently cooled. The resulting product was filtered and recyrstallized to yield the title compound having a m.p. (melting point) of 178-180° C. (compound 1.1, List of Compounds).

reactant | crotonic acid | 1 mole, 86 g | C(\C=C\C)(=O)O | C4H6O2
reactant | ethanolamine | 1 mole | C(O)CN | C2H7NO
solvent | pyridine | 200 ml | N1=CC=CC=C1 | C5H5N
product | N-(2-Hydroxyethyl)-3-aminobutyric acid | OCCNC(CC(=O)O)C | C6H13NO3
